US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid methyl ester
A mixture of 2 gm (5.46 m mol) of 4-[(1-(2-piperidinophenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid, 0.53 gm of methanol, 0.38 ml of conc. sulfuric acid, and 1.65 ml of 1,2-dichloro-ethane was refluxed for 24 hours, then evaporated in vacuo, dissolved in chloroform, and extracted with dilute sodium bicarbonate solution. The organic phase was washed with water, dried, filtered, and evaporated in vacuo. The evaporation residue was purified by column chromatography on silica gel (toluene/acetone=5:1).

reactant | 4-[(1-(2-piperidinophenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid | 2 gm | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N | C22H26N2O3
reactant | methanol | 0.53 gm | CO | CH4O
reactant | sulfuric acid | 0.38 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloro-ethane | 1.65 ml | ClCCCl | C2H4Cl2
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(C(=O)N)C(C)C1=C(C=CC=C1)N1CCCCC1)=O | C23H28N2O3
